US05614544
(E,E)-5-[4-[2-(5-methyl- 2-phenyl-4-oxazolyl )ethyl]phenyl ]- 2,4-pentadien-1-ol was oxidized with activated manganese dioxide in the same manner as in Reference Example 25 to yield (E,E)-5-[4-[2-(5-methyl-2-phenyl4-oxazolyl)ethyl]phenyl]-2,4-pentadien-1-al, which was then recrystallized from ethyl acetate to yield yellow rods having a melting point of 107°-108° C.

reactant | (E,E)-5-[4-[2-(5-methyl- 2-phenyl-4-oxazolyl )ethyl]phenyl ]- 2,4-pentadien-1-ol | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C=C1)/C=C/C=C/CO | C23H23NO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E,E)-5-[4-[2-(5-methyl-2-phenyl4-oxazolyl)ethyl]phenyl]-2,4-pentadien-1-al | CC1=C(N=C(O1)C1=CC=CC=C1)CCC1=CC=C(C=C1)/C=C/C=C/C=O | C23H21NO2
